US05559230
To a solution of 1,2,3,4-tetrahydroquinoline (28.7 g) in acetone (400 ml) and water (200 ml) is added potassium carbonate (38.8 g), and thereto is added p-nitrobenzoyl chloride (40 g) under ice-cooling and the mixture is stirred at room temperature overnight. To the reaction mixture is added a suitable amount of water. The precipitated crystal is collected by filtration and dried to give 1-(4-nitrobenzoyl)-1,2,3,4-tetrahydroquinoline (40.8 g) as white powder, m.p. 86°-88° C.

reactant | 1,2,3,4-tetrahydroquinoline | 28.7 g | N1CCCC2=CC=CC=C12 | C9H11N
reactant | potassium carbonate | 38.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-nitrobenzoyl chloride | 40 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | acetone | 400 ml | CC(=O)C | C3H6O
solvent | water | 200 ml | O | H2O
product | 1-(4-nitrobenzoyl)-1,2,3,4-tetrahydroquinoline | 40.8 g | [N+](=O)([O-])C1=CC=C(C(=O)N2CCCC3=CC=CC=C23)C=C1 | C16H14N2O3
